US08283353B2
N-(1,4-dioxaspiro[4.5]dec-8-yl)-5-methyl-4H-1,2,4-triazol-3-amine
Sodium triacetoxyborohydride (32.4 g) was gradually added to a solution (150 mL) of 5-methyl-4H-1,2,4-triazol-3-amine (10.0 g) and 1,4-cyclohexanedione monoethyleneketal (19.1 g) in acetic acid. The mixture was stirred at room temperature for 16 hr, water was added to the reaction mixture, and the mixture was concentrated under reduced pressure. The obtained residue was poured into saturated aqueous sodium hydrogen carbonate, and the mixture was extracted 3 times with a mixed solvent of ethyl acetate and isopropyl alcohol (3:1). The obtained extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure, and the residue was solidified with diisopropyl ether, and the solid was collected by filtration, and dried to give the title compound (15.6 g).

reactant | Sodium triacetoxyborohydride | 32.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 5-methyl-4H-1,2,4-triazol-3-amine | 150 mL, 10.0 g | CC=1NC(=NN1)N | C3H6N4
reactant | 1,4-cyclohexanedione monoethyleneketal | 19.1 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(1,4-dioxaspiro[4.5]dec-8-yl)-5-methyl-4H-1,2,4-triazol-3-amine | 15.6 g | O1CCOC12CCC(CC2)NC2=NN=C(N2)C | C11H18N4O2
